US04218396
N,N"-(1,4-Phenylene)bis[N',N'-bis(1-methylethyl)thiourea]
To a solution of 1.92 g. of 1,4-phenylenediisothiocyanate in 100 ml. of acetonitrile is added 2.5 g. of diisopropylamine. On standing, a precipitate forms which is filtered off and crystallized from acetone-cyclohexane to yield 2.7 g. of the title compound, melting point 185° C.

reactant | 1,4-phenylenediisothiocyanate | C1(=CC=C(C=C1)N=C=S)N=C=S | C8H4N2S2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N"-(1,4-Phenylene)bis[N',N'-bis(1-methylethyl)thiourea] | C1(=CC=C(C=C1)NC(=S)N(C(C)C)C(C)C)NC(=S)N(C(C)C)C(C)C | C20H34N4S2
